US08461162B2
A solution of 2-methyl-N-[2,2,2-trifluoro-1-(6-methylpyridin-2-yl)ethyl]propane-2-sulfinamide (0.2 g, 0.68 mmol) in methanol (1.4 mL) was treated with (0.5 mL of a 4M solution, 2.0 mmol) and the reaction was heated to 38° C. for 16 hours. The reaction was cooled to room temperature and partitioned between water/ethyl acetate. The organics were dried over sodium sulfate, filtered and evaporated in vacuo. Purification by reverse phase chromatography gave 2,2,2-trifluoro-1-(6-methylpyridin-2-yl)ethanamine. LC-MS EIMS: m/z 191.1 [M+H]+.

reactant | 2-methyl-N-[2,2,2-trifluoro-1-(6-methylpyridin-2-yl)ethyl]propane-2-sulfinamide | 0.68 mmol, 0.2 g | CC(C)(C)S(=O)NC(C(F)(F)F)C1=NC(=CC=C1)C | C12H17F3N2OS
solvent | methanol | 1.4 mL | CO | CH4O
product | 2,2,2-trifluoro-1-(6-methylpyridin-2-yl)ethanamine | FC(C(N)C1=NC(=CC=C1)C)(F)F | C8H9F3N2
